US07741327B2
To a stirred mixture of 2-fluoro-3-methyl-phenol (20.0 g, 0.158 mol) and ethyl-2-butynoate (33.6 g, 0.300 mol) in tetrahydrofuran (100 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (25.4 g, 0.167 mol) slowly. After addition was complete the mixture was stirred at reflux overnight. Upon completion of the reaction the tetrahydrofuran was removed in vacuo and the residue was diluted in diethyl ether and washed first with 1N aqueous hydrochloric acid, then 10% aqueous sodium hydroxide solution, a saturated sodium chloride solution and dried over magnesium sulfate. The mixture was filtered and evaporated and residue purified by ISCO flash chromatography (Teledyne Isco RediSep Flash Column 330 g, 0% to 15% ethyl acetate/hexanes) which afforded (E)-3-(2-fluoro-3-methyl-phenoxy)-but-2-enoic acid ethyl ester (8.40 g, 23%) as a clear oil.

reactant | 2-fluoro-3-methyl-phenol | 0.158 mol, 20.0 g | FC1=C(C=CC=C1C)O | C7H7FO
reactant | ethyl-2-butynoate | 0.300 mol, 33.6 g | C(C)OC(C#CC)=O | C6H8O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.167 mol, 25.4 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (E)-3-(2-fluoro-3-methyl-phenoxy)-but-2-enoic acid ethyl ester | 8.40 g, 23% | C(C)OC(\C=C(/C)\OC1=C(C(=CC=C1)C)F)=O | C13H15FO3
